US04933339
This product was also obtained by charging a reaction vessel with 58.6 gm of benzylcyanide (0.5 mole), 116.8 gm of 4-chlorophenethylmethanesulfonate (0.5 mole), 500 ml of toluene and 500 ml of dimethylsulfoxide. The mixture was cooled to about 5° C. and 50% sodium hydroxide was added slowly with rapid mixing while maintaining the temperature at about 5°-10° C. After the addition of the sodium hydroxide (about 1.5 hours), the mixture was allowed to warm to room temperature and then stirred for another three hours. One liter of water was added to the mixture and it was transferred to a separatory funnel where it was extracted with ether; the combined ether extracts were sequentially washed with 5% hydrochloric acid, water and brine. The liquid obtained after solvent removal was distilled to obtain 102 gm of 3-(4-chlorophenyl)-1-cyano1-phenylpropane.

reactant | benzylcyanide | 0.5 mole, 58.6 gm | C(C1=CC=CC=C1)C#N | C8H7N
reactant | 4-chlorophenethylmethanesulfonate | 0.5 mole, 116.8 gm | ClC1=CC=C(CCCS(=O)(=O)[O-])C=C1
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | One liter | O | H2O
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
product | 3-(4-chlorophenyl)-1-cyano1-phenylpropane | 102 gm | ClC1=CC=C(C=C1)CCC(C1=CC=CC=C1)C#N | C16H14ClN
